* D:\_Git\IO\LAB1\Zener\Zener.asc
V1 N001 0 12
R1 N002 N001 1k
Robc 0 N002 {R}
D1 0 N002 BZX84C6V2LT116
.model D D
.lib C:\Users\stasz\Documents\LTspiceXVII\lib\cmp\standard.dio
.op 1
.step param R 1k 20k 100
.backanno
.end
