* D:\_Git\IO\LAB1\tranzystor\Tranzystor_current_sweep.asc
V1 N001 0 12
R1 N003 N001 1k
D1 0 N003 BZX84C6V2LT116
Q1 N001 N003 N002 0 NPN
I1 N002 0 {load}
.model D D
.lib C:\Users\stasz\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\stasz\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op 1
.step param load 0.01 1 0.01
.backanno
.end
